US04604401
To 1.00 g (3.68 mmol) of 6,7,8-trifluoro-1,4-dihydro-1-methylamino-4-oxo-3-quinolinecarboxylic acid in 10 ml of acetonitrile was added 0.56 g (1.0 equivalent) of 1,8-diazobicyclo-[5,4,0]undec-7-ene and 0.68 g of 1,1-dimethylethyl 3-pyrrolidinylcarbamate. The mixture was refluxed for one hour and stirred at room temperature overnight. The solids were filtered and washed with ether to give 0.92 g of 7-[3-[[(1,1dimethylethoxy)carbonyl]amino]-1-pyrro-lidinyl]-6,8-difluoro-1,4-dihydro-1-(methylamino)-4-oxo-3quinolinecarboxylic acid. A portion of this material (0.38 g) was treated with 10 ml of trifluoroacetic acid for 2 hours and was concentrated. The residue was taken up in aqueous sodium hydroxide to pH 12.5 and then treated with hydrochloric acid to pH 7.0. The solids were filtered to give 0.24 g of 7-(3-amino-1-pyrrolidinyl)-6,8-difluoro-1,4-dihydro-1-methylamino-4-oxo-3-quinolinecarboxylic acid, mp 210°-211° C.

reactant | 6,7,8-trifluoro-1,4-dihydro-1-methylamino-4-oxo-3-quinolinecarboxylic acid | 3.68 mmol, 1.00 g | FC=1C=C2C(C(=CN(C2=C(C1F)F)NC)C(=O)O)=O | C11H7F3N2O3
reactant | 1,1-dimethylethyl 3-pyrrolidinylcarbamate | 0.68 g | N1CC(CC1)NC(OC(C)(C)C)=O | C9H18N2O2
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 7-[3-[[(1,1dimethylethoxy)carbonyl]amino]-1-pyrro-lidinyl]-6,8-difluoro-1,4-dihydro-1-(methylamino)-4-oxo-3quinolinecarboxylic acid | 0.92 g | CC(C)(OC(=O)NC1CN(CC1)C1=C(C=C2C(C(=CN(C2=C1F)NC)C(=O)O)=O)F)C | C20H24F2N4O5
